US07855194B2
N6-Piperidin-4-yl-[1,3]dioxolo[4,5-g]quinazoline-6,8-diamine dihydrochloride
A solution of 4-(8-amino-[1,3]dioxolo[4,5-g]quinazolin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.6 g, 1.55 mmol) in ethanol (5 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ESI): 288.4 [M+H]+.

reactant | 4-(8-amino-[1,3]dioxolo[4,5-g]quinazolin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.55 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=2C=C3C(=CC2C(=N1)N)OCO3 | C19H25N5O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N6-Piperidin-4-yl-[1,3]dioxolo[4,5-g]quinazoline-6,8-diamine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=2C=C3C(=CC2C(=N1)N)OCO3 | InChI=1S/C14H17N5O2.2ClH/c15-13-9-5-11-12(21-7-20-11)6-10(9)18-14(19-13)17-8-1-3-16-4-2-8;;/h5-6,8,16H,1-4,7H2,(H3,15,17,18,19);2*1H
